US07407971B2
N-(2-cyanoethyl)-2-methylalanine
50 g (0.48 mol) of 2-methylalanine were added to a cooled solution (water/ice) of NaOH (19.6 g) in water (100 ml). Once the solution had turned clear, 34 ml (0.50 mol) of acrylonitrile were dropped on cooling. The mixture was left overnight. After 18 hours, 28 ml of acetic acid were added on cooling (water/ice); a white solid precipitated; 200 ml of 95% ethanol were dropped in the flask, stirring was continued for 1 hour, then the mire was allowed to stand in a fridge for 2-3 hours. After filtration, the solid was collected and dried in an oven at 80° C. The filtrates were evaporated and taken up with ethanol (160 ml).

reactant | 2-methylalanine | 0.48 mol, 50 g | CC(N)(C)C(=O)O | C4H9NO2
reactant | NaOH | 19.6 g | [OH-].[Na+]
reactant | acrylonitrile | 0.50 mol, 34 ml | C(C=C)#N | C3H3N
reactant | acetic acid | 28 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
product | N-(2-cyanoethyl)-2-methylalanine | C(#N)CCNC(C)(C(=O)O)C | C7H12N2O2
